US05023273
(13E)-(11R,15S,16RS)-6,9-Di-oxo-11,15-dihydroxy-16-methyl-18,18,19,19-tetradehydro-13-prostenoic acid
160 mg of (13E)-(11R,15S,16RS)-6,9-Di-oxo-11,15-bis-(tetrahydropyran-2-yloxy)-16-methyl-18,18,19,19-tetradehydro-13-prostenoic acid was mixed with 88 ml of a mixture of acetic acid:water:tetrahydrofuran (65:35:10) and allowed to react for 15 h at room temperature. It was concentrated by evaporation in a vacuum and the residue portions of acetic acid and water were removed by addition of toluene by azeotropic vacuum distillations repeated several times. The resulting raw oil was purified by chromatography on glass plates coated with silica gel. A mixture of dichloromethane and methanol was used as mobile solvent. 108 mg (98%) the title compound was isolated as colorless oil.

reactant | (13E)-(11R,15S,16RS)-6,9-Di-oxo-11,15-bis-(tetrahydropyran-2-yloxy)-16-methyl-18,18,19,19-tetradehydro-13-prostenoic acid | 160 mg | O=C(CCCCC(=O)O)C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](C(CC#CC)C)OC1OCCCC1)OC1OCCCC1)=O | C31H46O8
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (13E)-(11R,15S,16RS)-6,9-Di-oxo-11,15-dihydroxy-16-methyl-18,18,19,19-tetradehydro-13-prostenoic acid | 108 mg, 98% | O=C(CCCCC(=O)O)C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](C(CC#CC)C)O)O)=O | C21H30O6
